US04316022
Preparation of 4,5-bis-phenylacetyl-4,5-dihydro-s-triazolo[3,4-c]benzo-as-triazine
5 g (0.028 mole) of 4,5-dihydro-s-triazolo[3,4-c]benzo-as-triazine are reacted with 9.8 g (0.064 mole) of phenylacetyl chloride as described in Example 12. 7.33 g (64%) of the title compound are obtained; m.p.: 150°-151° C.

reactant | 4,5-dihydro-s-triazolo[3,4-c]benzo-as-triazine | 0.028 mole, 5 g | C1=NN=C2NNC3=C(N21)C=CC=C3 | C8H7N5
reactant | phenylacetyl chloride | 0.064 mole, 9.8 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
product | 4,5-bis-phenylacetyl-4,5-dihydro-s-triazolo[3,4-c]benzo-as-triazine | 7.33 g, 64% | C1(=CC=CC=C1)CC(=O)N1N(C2=C(N3C1=NN=C3)C=CC=C2)C(CC2=CC=CC=C2)=O | C24H19N5O2
